US07687510B2
4-{6-Methyl-5-(4-morpholinylcarbonyl)-2-oxo-1-[3-(trifluoromethyl)phenyl]-1,2,3,4-tetrahydro-4-pyrimidinyl}benzonitrile
150 mg (0.73 mmol) N-[3-(trifluoromethyl)phenyl]urea, 96 mg (0.73 mmol) 4-cyanobenzaldehyde, 63 mg (0.37 mmol) 4-(4-morpholinyl)-4-oxo-2-butanone and 220 mg polyphosphoric acid ethyl ester are suspended in 3 ml of THF. The mixture is stirred at reflux for 18 hours. After cooling down to room temperature, the solvent is removed in vacuo and the residue is purified by column chromatography on silica with dichloromethane/methanol as eluent.

reactant | N-[3-(trifluoromethyl)phenyl]urea | 0.73 mmol, 150 mg | FC(C=1C=C(C=CC1)NC(=O)N)(F)F | C8H7F3N2O
reactant | 4-cyanobenzaldehyde | 0.73 mmol, 96 mg | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | 4-(4-morpholinyl)-4-oxo-2-butanone | 0.37 mmol, 63 mg | N1(CCOCC1)C(CC(C)=O)=O | C8H13NO3
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 4-{6-Methyl-5-(4-morpholinylcarbonyl)-2-oxo-1-[3-(trifluoromethyl)phenyl]-1,2,3,4-tetrahydro-4-pyrimidinyl}benzonitrile | CC1=C(C(NC(N1C1=CC(=CC=C1)C(F)(F)F)=O)C1=CC=C(C#N)C=C1)C(=O)N1CCOCC1 | C24H21F3N4O3
